US08378104B2
Step B: 7-{7-amino-4-[1-(trans-4-hydroxycyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-2-yl}-1,2,3-benzothiadiazole-5-carbonitrile (Title Compound)
The title compound was prepared from {7-[bis(tert-butoxycarbonyl)amino]-4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-2-yl}boronic acid and 7-bromo-1,2,3-benzothiadiazole-5-carbonitrile by a procedure analogous to Example 368. MS (ESI): 458.14 [M+H]+; HPLC tR=0.79 min (TOF: polar—2 min).

reactant | {7-[bis(tert-butoxycarbonyl)amino]-4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-2-yl}boronic acid | C(C)(C)(C)OC(=O)N(C=1N=CC(=C2C1OC(=C2)B(O)O)C=2C=NN(C2)[C@@H]2CC[C@H](CC2)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C32H49BN4O8Si
reactant | 7-bromo-1,2,3-benzothiadiazole-5-carbonitrile | BrC1=CC(=CC=2N=NSC21)C#N | C7H2BrN3S
product | 7-{7-amino-4-[1-(trans-4-hydroxycyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-2-yl}-1,2,3-benzothiadiazole-5-carbonitrile | NC=1N=CC(=C2C1OC(=C2)C2=CC(=CC=1N=NSC12)C#N)C=1C=NN(C1)[C@@H]1CC[C@H](CC1)O | C23H19N7O2S
